US07560567B2
Preparation of 2-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]-1-butanamine hydrochloride
146 g of tert-butyl 2-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]butylcarbamate (0.414 mol) are dissolved in 2 L of dichloromethane. 190 mL of trifluoroacetic acid are added dropwise. The reaction mixture is stirred at room temperature for twelve hours, concentrated to dryness and diluted in 300 mL of hydrochloric acid 2M.

reactant | tert-butyl 2-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]butylcarbamate | 0.414 mol, 146 g | ClC=1C(=NC=C(C1)C(F)(F)F)C(CNC(OC(C)(C)C)=O)CC | C15H20ClF3N2O2
reactant | trifluoroacetic acid | 190 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 L | ClCCl | CH2Cl2
product | 2-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]-1-butanamine hydrochloride | Cl.ClC=1C(=NC=C(C1)C(F)(F)F)C(CN)CC | InChI=1S/C10H12ClF3N2.ClH/c1-2-6(4-15)9-8(11)3-7(5-16-9)10(12,13)14;/h3,5-6H,2,4,15H2,1H3;1H
